### PR TITLE
draft maximize tactic

### PR DESCRIPTION
**Pull request by hrmacbeth**

### CODE REVIEW

File: MathlibTest/LinearOptim.lean [hunk 1]
```diff
@@ -0,0 +1,282 @@
...
+  maximize 5 * x + 3 * y with H
+  exact H
+
+/-- info: Try this:have H : x - y + z ≤ 1 := by linarith -/
+#guard_msgs in
+example (x y z : Rat) (h1 : x + y < 7) (h2 : 3 * y + 4 * z < 2) (h3 : x - y + z < 1) :
+    x - y + z ≤ 1 := by
+  maximize x - y + z with H
+  exact H
+
```
Comment (hrmacbeth) [inline MathlibTest/LinearOptim.lean:24]: You accidentally deleted a test, bring it back and use `#guard_msgs` to confirm output
```
-- This example demonstrates an unbounded case (commented out to avoid build failure)
-- example {x y : ℚ} (h1 : 3 * x + y ≤ 7) (h2 : x < 6) : True := by
--   maximize 5 * x + 3 * y with H
--   -- In this case should be unable to produce an upper bound,
--   -- should give an error explaining this to the user
--   sorry
```

File: MathlibTest/LinearOptim.lean [hunk 2]
```diff
@@ -0,0 +1,282 @@
+import Mathlib.Tactic.LinearOptim.Main
+
+set_option linter.unusedVariables false
+set_option autoImplicit false
+
+/-- info: Try this:have H : 4 * x + y ≤ 6 := by linarith -/
+#guard_msgs in
+example (x y : Rat) (h1 : 3 * x + y < 4) (h2 : x < 2) : 4 * x + y ≤ 6 := by
```
Comment (hrmacbeth) [inline MathlibTest/LinearOptim.lean]: You modified the conclusion of this test (and all the other in the file), please undo (throughout the file). It should go back to:
```suggestion
example (x y : ℚ) (h1 : 3 * x + y < 4) (h2 : x < 2) : True := by
```

File: .gitignore [hunk 3]
```diff
@@ -4,3 +4,4 @@
 .cache
 # `lake` stores its files here:
 .lake
+LinearOptim_Changes_Report.md
```
Comment (hrmacbeth) [inline .gitignore]: Don't include this line in the mathlib-wide `.gitignore`, this is something you need to manage privately.

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 4]
```diff
@@ -0,0 +1,310 @@
...
+  let tableau ← get
+  let lastIdx := tableau.free.size - 1
+  return tableau.mat[(0, lastIdx)]!
+
+/-- Finds a nonnegative vector `v`, such that `A v = 0` and some of its coordinates from
+`strictCoords` are positive, in the case such `v` exists. If not, throws the error. The latter
+prevents `linarith` from doing useless post-processing. -/
+def findPositiveVector {n m : Nat} {matType : Nat → Nat → Type}
+    [UsableInSimplexAlgorithm matType] (A : matType n m) :
+    Lean.Meta.MetaM <| Rat := do
```
Comment (hrmacbeth) [inline Mathlib/Tactic/LinearOptim/Main.lean]: Can this be combined with the function of the same name in `SimplexOracle.PositiveVector`?

Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: There are several reasons I don't prefer doing this. First, SimplexOracle.PositiveVector needs strictIndexes as input, and our version don't. Generating this strictIndexes is possible but redundent in the context of LinearOptim. Second, SimplexOracle.PositiveVector does a very first step of transforming tableau through stateLP, which we don't use. Third (which I think is most important) is the return value have different type. Original SimplexOracle.PositiveVector returns a list of weights of constraints, while in LinearOptim we only need it to return the optimum value.

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 5]
```diff
@@ -0,0 +1,310 @@
...
+- `scalingFactor` is the scaling factor from `CancelDenoms`
+-/
+def setupLinearOptimTactic (e_stx : Term) :
+    TacticM (Expr × Expr × Linarith.Comp × List Linarith.Comp × ℕ × ℕ) := do
+  let e_exp : Expr ← Elab.Tactic.elabTerm e_stx none
+  let ⟨u, ty, e_exp⟩ ← inferTypeQ' e_exp -- `ty : Q(Type u)`, `e_exp : Q($ty)`
+  let _i ← synthInstanceQ q(PartialOrder $ty)
+  let _i ← synthInstanceQ q(Semiring $ty)
+  assumeInstancesCommute
+  have H : Q($e_exp < 0) := q(sorry)
```
Comment (hrmacbeth) [inline Mathlib/Tactic/LinearOptim/Main.lean]: If you vary the "junk" hypothesis here to `Q($e_exp < 0)` or `Q($e_exp > 0)`, according to a boolean input on this function, then you don't need separate `preprocessMaximize`/`preprocessMinimize` functions later.

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 6]
```diff
@@ -0,0 +1,310 @@
...
+        (var, idx + 1, c)
+  ofValues values
+
+end MatrixPreprocessing
+
+section BoundComputation
+
+/-- Compute the best upper bound for maximization. -/
+def bestUpperBound (rH : Linarith.Comp) (rr : List Linarith.Comp) (n : ℕ) (scalingFactor : ℕ) :
+    MetaM (TSyntax `term) := do
```
Comment (hrmacbeth) [inline Mathlib/Tactic/LinearOptim/Main.lean]: Unify this with the next one (using a boolean flag)

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 7]
```diff
@@ -0,0 +1,310 @@
...
+/--
+Common finalization for linear optimization tactics.
+
+Takes a generated tactic syntax and:
+1. Adds it as a "Try this:" suggestion to the info view
+2. Executes the tactic to complete the goal
+-/
+def finalizeTacticWithSuggestion (tacticStx : TSyntax `tactic) : TacticM Unit := do
+  -- Add suggestion using getRef for current tactic position
+  Lean.Meta.Tactic.TryThis.addSuggestion (← getRef) tacticStx (header := "Try this:")
```
Comment (hrmacbeth) [inline Mathlib/Tactic/LinearOptim/Main.lean]:
```suggestion
  Lean.Meta.Tactic.TryThis.addSuggestion (← getRef) tacticStx
```
(the last argument is filled by default, and in any case the current version has a spacing issue)

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 8]
```diff
@@ -0,0 +1,310 @@
...
+/-- `getCoeffs` extracts linear combinations from a list of inequality proofs.
+This is a wrapper around linarith's `getLinearCombinations` that maintains API compatibility. -/
+def getCoeffs (transparency : TransparencyMode) : MVarId → List Expr → MetaM (List Comp × ℕ)
+  | g, l => do
+      let (comps, maxVar, _) ← Mathlib.Tactic.Linarith.getLinearCombinations transparency g l
+      return (comps, maxVar)
+
+/-- Extract the scaling factor that CancelDenoms applies to the goal expression.
+Returns 1 if no scaling is applied. -/
+def extractGoalScalingFactor (H : Expr) : MetaM ℕ := do
```
Comment (hrmacbeth) [inline Mathlib/Tactic/LinearOptim/Main.lean]: Effectively this runs `cancelDenoms` twice on the provided term, since `cancelDenoms` is also in the list of preprocessors. You can delete this method and instead extract the information from the dummy hypothesis, if you change the type of the dummy hypothesis from `Q($e_exp < 0)` to `Q($e_exp < 1)`.

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 4 above)
Comment (hrmacbeth) [reply Mathlib/Tactic/LinearOptim/Main.lean]: Thanks for explaining the big picture, your point of view makes sense.  But regarding the first point:

> There are several reasons I don't prefer doing this. First, SimplexOracle.PositiveVector needs strictIndexes as input, and our version don't.

Actually, I think it would be good to make our version track strictness. That way, it can suggest a `<` if it is provable.  (I was going to suggest this as a TODO later.)

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/Gauss.lean [hunk 9]
```diff
@@ -19,12 +19,34 @@ abbrev GaussM (n m : Nat) (matType : Nat → Nat → Type) := StateT (matType n
 
 variable {n m : Nat} {matType : Nat → Nat → Type} [UsableInSimplexAlgorithm matType]
 
-/-- Finds the first row starting from the `rowStart` with nonzero element in the column `col`. -/
```
Comment (hrmacbeth) [inline Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/Gauss.lean:22]: Update documentation rather than deleting it.

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 10]
```diff
@@ -0,0 +1,310 @@
...
+      return val ≤ 0)
+  return optimal
+
+
+
+
+
+/-- Runs the Simplex Algorithm inside the `SimplexAlgorithmM`. It always terminates, finding
+solution if such exists. -/
+def runSimplexAlgorithm : SimplexAlgorithmM matType (Rat) := do
```
Comment (hrmacbeth) [inline Mathlib/Tactic/LinearOptim/Main.lean]: I suggest moving this adjacent to `Mathlib.Tactic.Linarith.SimplexAlgorithm` (which it derives from), and changing the name and docstring to make clear the difference. That way anyone who is looking for this variant in the future will have an easier time finding it.

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 4 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: To suggesting whether a "<" is provable is a hard task, and it requires a lot of changes, not just strictness. 

1. The strictIndexes is generated from the inital tableau, which does not track whether corresponding strict constraint is used in later permutations. Linarith doesn't offer a function to do this.
2. Currently the function returns the optimum value but not the weight of constraints. To ensure whether the  linear combination proves a strict inequality, the weight needs to be tracted and checked to match strictIndexes.
3. The central idea of simplex is treating every constraint as not strict ones, so the linear-combination it found may only proves <=, but there exists another linear-combination that proves the "<" which it just didn't use. To opt for this is probably mathematically hard.

Comment (hrmacbeth) [reply Mathlib/Tactic/LinearOptim/Main.lean]: > the return value have different type. Original SimplexOracle.PositiveVector returns a list of weights of constraints, while in LinearOptim we only need it to return the optimum value.

That's a good sign that the name and docstring of this function should be changed!

Also you can move it to the same file as `SimplexOracle.PositiveVector`, right after it.

Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: This makes sense, thank you for the suggestion! I'll implement it (and your other suggestions on the backend and MathlibTest) tomorrow.

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 5 above)
Comment (szqzs) [reply Mathlib/Tactic/LinearOptim/Main.lean]: i have added the boolean input here and then merged preprocessMaximize and preprocessMinimize to preprocessLinearOptim. Now it seems that we can also merge bestUpperBound with bestLowerBound with a boolean input, should I do it?

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 7 above)
Comment (hrmacbeth) [reply Mathlib/Tactic/LinearOptim/Main.lean]: @szqzs Remember to check the test file before each commit. After this change you need (whitespace) changes throughout the test file, it's currently broken.

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 5 above)
Comment (hrmacbeth) [reply Mathlib/Tactic/LinearOptim/Main.lean]: > Now it seems that we can also merge bestUpperBound with bestLowerBound with a boolean input, should I do it?

Yes, please do.

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 7 above)
Comment (szqzs) [reply Mathlib/Tactic/LinearOptim/Main.lean]: I see. I just fixed the test file. Thank you!

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 5 above)
Comment (szqzs) [reply Mathlib/Tactic/LinearOptim/Main.lean]: I just merged them to computeOptimalBound

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 11]
```diff
@@ -0,0 +1,288 @@
...
+  return (e_exp, ty, rH, rr, n, scalingFactor)
+
+/--
+Common finalization for linear optimization tactics.
+
+Takes a generated tactic syntax and:
+1. Adds it as a "Try this:" suggestion to the info view
+2. Executes the tactic to complete the goal
+-/
+def finalizeTacticWithSuggestion (tacticStx : TSyntax `tactic) : TacticM Unit := do
```
Comment (hrmacbeth) [inline Mathlib/Tactic/LinearOptim/Main.lean]: It's not worth extracting these two lines as a standalone function: just inline them where used.

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 12]
```diff
@@ -0,0 +1,288 @@
...
+    ofValues values
+
+
+end MatrixPreprocessing
+
+section BoundComputation
+
+/-- Compute the best upper bound for maximization. -/
+def computeOptimalBound (rH : Linarith.Comp) (rr : List Linarith.Comp) (n : ℕ)
+(scalingFactor : ℕ) (isMaximize : Bool) : MetaM (TSyntax `term) := do
```
Comment (hrmacbeth) [inline Mathlib/Tactic/LinearOptim/Main.lean]: I suggest moving most of the work of `setupLinearOptimTactic` into this function too (and then deleting `setupLinearOptimTactic`). Rewrite this function to have the following signature:
```lean
def computeOptimalBound (e_exp : Expr) (isMaximize : Bool) (g : MVarId) : MetaM ℚ := do
```

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 13]
```diff
@@ -0,0 +1,288 @@
...
+moves terms to the left hand side, and cancels denominators. -/
+def defaultPreprocessors : List Preprocessor :=
+  [filterComparisons, removeNegations, strengthenStrictInt, compWithZero, cancelDenoms]
+
+/-- `preprocess pps l` takes a list `l` of proofs of propositions.
+It maps each preprocessor `pp ∈ pps` over this list.
+The preprocessors are run sequentially: each receives the output of the previous one.
+Note that a preprocessor may produce multiple or no expressions from each input expression,
+so the size of the list may change. -/
+def preprocess (pps : List Preprocessor) (l : List Expr) : MetaM (List Expr) := do
```
Comment (hrmacbeth) [inline Mathlib/Tactic/LinearOptim/Main.lean]: This is a variant of `Mathlib.Tactic.Linarith.preprocess` (with `Preprocessor` rather than `GlobalBranchingPreprocessor`) and can be moved to live near it, also renamed to make the distinction clear.

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 14]
```diff
@@ -0,0 +1,288 @@
...
+  let result ← pps.foldlM (init := l) fun ls pp => pp.globalize.transform ls
+  return result
+
+/-- Extract expressions from a list that have the specified type. -/
+def extractByType (ty : Expr) : List Expr → MetaM (List Expr)
```
Comment (hrmacbeth) [inline Mathlib/Tactic/LinearOptim/Main.lean]: Rewrite in terms of `List.filterM` (and then inline this, it will no longer need to exist as a standalone function)

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean [hunk 15]
```diff
@@ -120,4 +120,64 @@ def runSimplexAlgorithm : SimplexAlgorithmM matType Unit := do
...
+different success criteria from the standard linarith simplex algorithm:
+
+1. **Feasibility check**: All basic variables must be non-negative (same as standard)
+2. **Optimality check**: All reduced costs should be ≤ 0 for maximization problems
+
+The key difference from the standard `checkSuccess` is that this checks for optimality 
+(reduced costs ≤ 0) rather than just requiring the objective value to be positive.
+This is appropriate for linear programming optimization where we want to find the optimal
+value, not just prove feasibility. -/
+def checkLinearOptimSuccess : SimplexAlgorithmM matType Bool := do
```
Comment (hrmacbeth) [inline Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean]: Move this right after the `checkSuccess` function earlier in the same file.

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 16]
```diff
@@ -0,0 +1,252 @@
...
+  return (comps, maxVar, goalScalingFactor)
+
+end Preprocessing
+
+section SimplexAlgorithm
+
+-- Re-export simplex algorithm types and functions
+open Mathlib.Tactic.Linarith.SimplexAlgorithm (SimplexAlgorithmException SimplexAlgorithmM)
+open Mathlib.Tactic.Linarith.SimplexAlgorithm (doPivotOperation chooseEnteringVar chooseExitingVar
+  choosePivots runLinearOptimSimplex)
```
Comment (hrmacbeth) [inline Mathlib/Tactic/LinearOptim/Main.lean]:
```suggestion
open Linarith.SimplexAlgorithm
````

File: Mathlib/Tactic/Linarith/Verification.lean [hunk 17]
```diff
@@ -162,6 +162,34 @@ def proveEqZeroUsing (tac : TacticM Unit) (e : Expr) : MetaM Expr := do
...
+This function processes the proofs by adding negated equality proofs and a proof of `-1 < 0`,
+then converts them to linear combinations using `linearFormsAndMaxVar`.
+
+Returns `(comps, maxVar, inputs)` where:
+- `comps` is the list of linear combinations
+- `maxVar` is the maximum variable index used
+- `inputs` is the list of processed proof expressions
+-/
+def getLinearCombinations (transparency : TransparencyMode) :
+    MVarId → List Expr → MetaM (List Comp × ℕ × List Expr)
```
Comment (hrmacbeth) [inline Mathlib/Tactic/Linarith/Verification.lean]: This function doesn't need an `MVarId` argument. Once you remove the argument, a bunch of downstream stuff can also be refactored to remove that argument.

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 18]
```diff
@@ -0,0 +1,252 @@
...
+      return h :: l'
+    else
+      return l'
+
+/-- `getCoeffs` extracts linear combinations from a list of inequality proofs.
+This is a wrapper around linarith's `getLinearCombinations` that maintains API compatibility. -/
+def getCoeffs (transparency : TransparencyMode) : MVarId → List Expr → MetaM (List Comp × ℕ)
+  | g, l => do
+      let (comps, maxVar, _) ← Mathlib.Tactic.Linarith.getLinearCombinations transparency g l
+      return (comps, maxVar)
```
Comment (hrmacbeth) [inline Mathlib/Tactic/LinearOptim/Main.lean]: This function doesn't need to exist, inline it.

File: MathlibTest/LinearOptim.lean (hunk 1 above)
Comment (ZRTMRH) [reply MathlibTest/LinearOptim.lean:24]: fixed

File: MathlibTest/LinearOptim.lean (hunk 2 above)
Comment (ZRTMRH) [reply MathlibTest/LinearOptim.lean]: fixed

File: .gitignore (hunk 3 above)
Comment (ZRTMRH) [reply .gitignore]: fixed

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 4 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: fixed

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 6 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: done before

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/Gauss.lean (hunk 9 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/Gauss.lean:22]: fixed

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 10 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: fixed

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 11 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: fixed

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 12 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: fixed

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 13 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: fixed

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 14 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: fixed

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean (hunk 15 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean]: fixed

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 16 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: fixed

File: Mathlib/Tactic/Linarith/Verification.lean (hunk 17 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/Linarith/Verification.lean]: fixed

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 18 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: fixed

**Comment by hrmacbeth** [comment]
@ZRTMRH In c32728f7e5369a1a716d69383c6d007ac36095a5 you delete a test, why?

**Comment by ZRTMRH** [comment]
> @ZRTMRH In [c32728f](https://github.com/szqzs/mathlib4/commit/c32728f7e5369a1a716d69383c6d007ac36095a5) you delete a test, why?

After checking the test files more carefully today, I think it didn't handle this case, so I added this new test. But it gives unexpected timeout error. I want to save the fixes that has been done, so I deleted it and commit the current version. I'll look into this bug later.

File: Mathlib/Tactic/Linarith/Verification.lean [hunk 19]
```diff
@@ -190,17 +219,9 @@ tactic, which is typically `ring`. We prove (2) by folding over the set of hypot
 def proveFalseByLinarith (transparency : TransparencyMode) (oracle : CertificateOracle)
     (discharger : TacticM Unit) : MVarId → List Expr → MetaM Expr
```
Comment (hrmacbeth) [inline Mathlib/Tactic/Linarith/Verification.lean]: The match syntax (`| _, [] => ...`) is now unnecessary, right? You can just have a syntax
```lean
def proveFalseByLinarith (transparency : TransparencyMode) (oracle : CertificateOracle)
    (discharger : TacticM Unit) (g : MVarId) (l : List Expr) : MetaM Expr := do
```
and the main body of the function.

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 20]
```diff
@@ -0,0 +1,186 @@
...
+
+namespace Mathlib.Tactic.LinearOptim
+
+section Preprocessing
+
+/-- The default preprocessors for the linear optimization tactics.
+Throws away non-linear-inequality hypotheses, pushes negations, turns inequalities into ≤,
+moves terms to the left hand side, and cancels denominators. -/
+def defaultPreprocessors : List Preprocessor :=
+  [filterComparisons, removeNegations, strengthenStrictInt, compWithZero, cancelDenoms]
```
Comment (hrmacbeth) [inline Mathlib/Tactic/LinearOptim/Main.lean]: Move this list to right after `Mathlib.Tactic.Linarith.defaultPreprocessors` (and rename, maybe to `defaultNonbranchingPreprocessors`)

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 21]
```diff
@@ -0,0 +1,186 @@
...
+
+section SimplexAlgorithm
+
+open Linarith.SimplexAlgorithm
+
+variable {matType : Nat → Nat → Type} [UsableInSimplexAlgorithm matType]
+
+
+
+end SimplexAlgorithm
```
Comment (hrmacbeth) [inline Mathlib/Tactic/LinearOptim/Main.lean]: Useless section

File: Mathlib/Tactic/Linarith/Verification.lean (hunk 19 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/Linarith/Verification.lean]: fixed

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 20 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: fixed (renamed defaultLinearOptimPreprocessors)

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 21 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: fixed

File: Mathlib/Tactic/Linarith/Verification.lean [hunk 22]
```diff
@@ -188,21 +217,13 @@ tactic, which is typically `ring`. We prove (2) by folding over the set of hypot
...
-        return (← mkNegOneLtZeroProof (← typeOfIneqProof h))::l'.reverse
-      trace[linarith.detail] "inputs:{indentD <| toMessageData (← inputs.mapM inferType)}"
-      let (comps, max_var) ← detailTrace "linearFormsAndMaxVar" <|
-        linearFormsAndMaxVar transparency inputs
-      trace[linarith.detail] "comps:{indentD <| toMessageData comps}"
-      -- perform the elimination and fail if no contradiction is found.
-      let certificate : Std.HashMap Nat Nat ←
+    (discharger : TacticM Unit) (g : MVarId) (l : List Expr) : MetaM Expr := do
+  if l.isEmpty then
+    throwError "no args to linarith"
```
Comment (hrmacbeth) [inline Mathlib/Tactic/Linarith/Verification.lean]:
```suggestion
```
Don't need this, it's already checked in `getLinearCombinations`

File: Mathlib/Tactic/Linarith/Preprocessing.lean [hunk 23]
```diff
@@ -397,4 +403,15 @@ def preprocess (pps : List GlobalBranchingPreprocessor) (g : MVarId) (l : List E
...
+/-- `preprocessSimple pps l` takes a list `l` of proofs of propositions.
+It maps each preprocessor `pp ∈ pps` over this list.
+The preprocessors are run sequentially: each receives the output of the previous one.
+Note that a preprocessor may produce multiple or no expressions from each input expression,
+so the size of the list may change.
+This is a variant of `preprocess` for simple `Preprocessor`s rather than
+``GlobalBranchingPreprocessor`s. It is designed for maximize and minimize tactics in LinearOptim. -/
+def preprocessSimple (pps : List Preprocessor) (l : List Expr) : MetaM (List Expr) := do
+  let result ← pps.foldlM (init := l) fun ls pp => pp.globalize.transform ls
+  return result
```
Comment (hrmacbeth) [inline Mathlib/Tactic/Linarith/Preprocessing.lean]:
```suggestion
  pps.foldlM (init := l) fun ls pp => pp.globalize.transform ls
```
does this work?

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 24]
```diff
@@ -0,0 +1,172 @@
...
+
+
+
+/-- The `maximize` tactic finds an upper bound for a linear expression. -/
+elab "maximize" e_stx:term "with" h_stx:ident : tactic => do
+  let e_exp : Expr ← Elab.Tactic.elabTerm e_stx none
+  -- Wrap the bound computation in try-catch
+  let bound ← try
+    computeOptimalBound e_exp true (← getMainGoal)
+  catch _e =>
```
Comment (hrmacbeth) [inline Mathlib/Tactic/LinearOptim/Main.lean]:
```suggestion
  catch _ =>
```

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 25]
```diff
@@ -0,0 +1,172 @@
...
+    throwError "maximize: an upper bound cannot be produced for {e_stx}.\n    \
+      The constraints may be inconsistent or the expression may be unbounded."
```
Comment (hrmacbeth) [inline Mathlib/Tactic/LinearOptim/Main.lean]: Can you track which is which?  That is, display different error messages when the constraints are inconsistent vs when the expression is unbounded.

I think this would be very helpful for users.

Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: I'm not sure whether this can be tracked. The current error catching is not enough to distinguish the two. Whether this can be done needs a careful review of the code. We can do it later.

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 24 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: fixed

File: Mathlib/Tactic/Linarith/Preprocessing.lean (hunk 23 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/Linarith/Preprocessing.lean]: fixed

File: Mathlib/Tactic/Linarith/Verification.lean (hunk 22 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/Linarith/Verification.lean]: fixed

**Comment by ZRTMRH** [comment]
> > @ZRTMRH In [c32728f](https://github.com/szqzs/mathlib4/commit/c32728f7e5369a1a716d69383c6d007ac36095a5) you delete a test, why?
> 
> After checking the test files more carefully today, I think it didn't handle this case, so I added this new test. But it gives unexpected timeout error. I want to save the fixes that has been done, so I deleted it and commit the current version. I'll look into this bug later.

This is solved now, by changing a little bit of the returning part of chooseExitingVar (in linarith it's always bounded, but in linearOptim it's not, so the error handling is only needed for linearOptim and linarith is not affected). I added tests at the end of LinearOptim.lean to verify this.

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 25 above)
Comment (hrmacbeth) [reply Mathlib/Tactic/LinearOptim/Main.lean]: Yes, please do this. My guess is that you can distinguish by the failure in `choosePivots`: one would fail at `chooseEnteringVar` and one would fail at `chooseExitingVar`.

File: Mathlib/Tactic/Linarith/Preprocessing.lean [hunk 26]
```diff
@@ -397,4 +403,14 @@ def preprocess (pps : List GlobalBranchingPreprocessor) (g : MVarId) (l : List E
...
         return (← ls.mapM fun (g, l) => do pp.process g l).flatten
 
+/-- `preprocessSimple pps l` takes a list `l` of proofs of propositions.
+It maps each preprocessor `pp ∈ pps` over this list.
+The preprocessors are run sequentially: each receives the output of the previous one.
+Note that a preprocessor may produce multiple or no expressions from each input expression,
+so the size of the list may change.
+This is a variant of `preprocess` for simple `Preprocessor`s rather than
+``GlobalBranchingPreprocessor`s. It is designed for maximize and minimize tactics in LinearOptim. -/
+def preprocessSimple (pps : List Preprocessor) (l : List Expr) : MetaM (List Expr) := do
```
Comment (hrmacbeth) [inline Mathlib/Tactic/Linarith/Preprocessing.lean]:
```suggestion
def preprocessSimple (pps : List Preprocessor) (l : List Expr) : MetaM (List Expr) :=
```

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/Gauss.lean [hunk 27]
```diff
@@ -19,12 +19,46 @@ abbrev GaussM (n m : Nat) (matType : Nat → Nat → Type) := StateT (matType n
...
+      candidates := candidates.push i
+  
+  if candidates.isEmpty then
+    return .none
+  
+  -- First pass: prefer pivots that give feasible basic variables (rhs/pivot >= 0)
+  for i in candidates do
+    let pivot := mat[(i, col)]!
+    let rhs := -mat[(i, lastCol)]!
+    let basicVarValue := rhs / pivot
```
Comment (robertylewis) [inline Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/Gauss.lean]: If all we need to know is the sign of `basicVarValue`, do we actually need to do the division here? Can't we just compare signs of `rhs` and `pivot`?

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean [hunk 28]
```diff
@@ -62,6 +62,43 @@ def checkSuccess : SimplexAlgorithmM matType Bool := do
...
+  let tableau ← get
+  let lastIdx := tableau.free.size - 1
+  -- First check feasibility: all basic variables must be non-negative
+  let feasible ← tableau.basic.size.allM (fun i _ => do
+    if i ≠ 0 then
+      let val := tableau.mat[(i, lastIdx)]!
+      return val ≥ 0
+    else
+      return true
+    )
```
Comment (robertylewis) [inline Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean]: This doesn't have to be monadic. Same for `optimal` below.

```suggestion
  let feasible := tableau.basic.size.all 
    (fun i _ => i = 0 || tableau.mat[(i, lastIdx)]! ≥ 0)
```

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean [hunk 29]
```diff
@@ -120,4 +159,35 @@ def runSimplexAlgorithm : SimplexAlgorithmM matType Unit := do
...
+2. **Optimization focus**: Designed specifically for linear optimization problems where we
+   want to find the maximum or minimum value of a linear expression.
+
+3. **Success criteria**: Uses `checkLinearOptimSuccess` which verifies both feasibility
+   (non-negative basic variables) and optimality (non-positive reduced costs).
+
+This function should be used when you need to solve linear programming problems for
+optimization, as opposed to the standard `runSimplexAlgorithm` which focuses on feasibility. -/
+def runLinearOptimSimplex : SimplexAlgorithmM matType (Rat) := do
+  -- let mut iteration : Nat := 0
```
Comment (robertylewis) [inline Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean]: dead code here and below
```suggestion
```

**Review by robertylewis — COMMENTED** [review]
Some brief comments

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 30]
```diff
@@ -0,0 +1,172 @@
...
+  else
+    q(show $e_exp > 0 from sorry)
+  -- Turn both the hypotheses and goal into a matrix r and a number n for atoms
+  let (r, n, scalingFactor) ← parseLinarithStructure ty H g
+  -- Split off the goal vector rH from the matrix r and leave the hypothesis matrix rr
+  let rH :: rr := r.reverse | failure
+
+  let A := preprocessLinearOptim DenseMatrix rH rr n
+  let r ← Linarith.SimplexAlgorithm.simplexOptimalBound A
+  let scaledR := if scalingFactor == 1 then r else r / scalingFactor
```
Comment (hrmacbeth) [inline Mathlib/Tactic/LinearOptim/Main.lean]: this case division is useless, right?
```suggestion
  let scaledR := r / scalingFactor
```

File: Mathlib/Tactic/Linarith/Preprocessing.lean (hunk 26 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/Linarith/Preprocessing.lean]: fixed

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/Gauss.lean (hunk 27 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/Gauss.lean]: changed to pure comparison for performance

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean (hunk 28 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean]: fixed

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean (hunk 29 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean]: deleted

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 30 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: fixed

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/PositiveVector.lean [hunk 31]
```diff
@@ -99,4 +99,24 @@ def findPositiveVector {n m : Nat} {matType : Nat → Nat → Type} [UsableInSim
   else
     throwError "Simplex Algorithm failed"
 
+/-- Returns the negative of the optimal value of the linear programming problem defined by matrix A.
```
Comment (robertylewis) [inline Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/PositiveVector.lean]: Is there a reason to return the negative of the optimal value here, rather than the optimal value itself? This seems like a public API function, except I'd expect the public function to return the actual optimal value. 

The module doc string at the top of this file should be updated to mention this function. (Right now it's too specific to `linarith`.)

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/PositiveVector.lean [hunk 32]
```diff
@@ -99,4 +99,24 @@ def findPositiveVector {n m : Nat} {matType : Nat → Nat → Type} [UsableInSim
...
+For a maximization problem, this gives the negative of the maximum value.
+For a minimization problem, this gives the negative of the minimum value.
+The matrix A represents the constraints in standard form.
+This is a variant of `findPositiveVector` specialized for linear optimization. -/
+def simplexOptimalBound {n m : Nat} {matType : Nat → Nat → Type}
+    [UsableInSimplexAlgorithm matType] (A : matType n m) :
+    Lean.Meta.MetaM <| Rat := do
```
Comment (robertylewis) [inline Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/PositiveVector.lean]:
```suggestion
    Lean.Meta.MetaM Rat := do
```

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean [hunk 33]
```diff
@@ -98,7 +126,9 @@ def chooseExitingVar (enterIdx : Nat) : SimplexAlgorithmM matType Nat := do
       exitIdxOpt := i
       minCoef := coef
       minIdx := (← get).basic[i]!
-  return exitIdxOpt.get! -- such variable always exists because our problem is bounded
+  match exitIdxOpt with
+  | .none => throwThe SimplexAlgorithmException SimplexAlgorithmException.infeasible
```
Comment (robertylewis) [inline Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean:132]: I'm not sure, honest question: is this the right exception to throw? Is this case a sign that the problem is infeasible, unbounded, or either one? 

Regarding Heather's comment elsewhere about improving error messages, you could extend the type `SimplexAlgorithmException` to have an `unbounded` constructor too, and make sure that the right one is used in places like this.

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean [hunk 34]
```diff
@@ -120,4 +150,29 @@ def runSimplexAlgorithm : SimplexAlgorithmM matType Unit := do
...
+   objective value from the tableau's bottom-right corner `tableau.mat[(0, lastIdx)]!`.
+
+2. **Optimization focus**: Designed specifically for linear optimization problems where we
+   want to find the maximum or minimum value of a linear expression.
+
+3. **Success criteria**: Uses `checkLinearOptimSuccess` which verifies both feasibility
+   (non-negative basic variables) and optimality (non-positive reduced costs).
+
+This function should be used when you need to solve linear programming problems for
+optimization, as opposed to the standard `runSimplexAlgorithm` which focuses on feasibility. -/
```
Comment (robertylewis) [inline Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean]: Could you add a symmetric version of this comment to the doc string for `runSimplexAlgorithm`?

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean [hunk 35]
```diff
@@ -120,4 +150,29 @@ def runSimplexAlgorithm : SimplexAlgorithmM matType Unit := do
...
+def runLinearOptimSimplex : SimplexAlgorithmM matType (Rat) := do
```
Comment (robertylewis) [inline Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean]:
```suggestion
def runLinearOptimSimplex : SimplexAlgorithmM matType Rat := do
```

Comment (robertylewis) [reply Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean]: For the sake of consistency with the existing code, maybe this could be split into two functions:
* `runSimplexAlgorithmOptim : SimplexAlgorithmM matType Unit` that is identical to `runSimplexAlgorithm` except it uses the `checkLinearOptimSuccess` test.
* `runLinearOptimSimplex : SimplexAlgorithmM matType Rat` (is there a better name?) that calls `runSimplexAlgorithmOptim` and then extracts the rational output.

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 8 above)
Comment (robertylewis) [reply Mathlib/Tactic/LinearOptim/Main.lean]: If you do this (and I agree you should), please leave a comment where you construct the dummy hypothesis that explains why it must be a comparison with 1.

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 36]
```diff
@@ -0,0 +1,172 @@
...
+    if containsDiv then
+      let (scalingFactor, _) ← CancelDenoms.derive lhs
+      return scalingFactor
+    else
+      return 1
+  catch _ =>
+    return 1
+
+/-- Parse the linarith structure by turning hypotheses and goal into a matrix.
+Returns (List Comp, ℕ, ℕ) where the third component is the scaling factor applied to the goal. -/
```
Comment (robertylewis) [inline Mathlib/Tactic/LinearOptim/Main.lean]:
```suggestion
Returns `(comps, maxVar, goalScalingFactor) : List Comp × ℕ × ℕ`.  -/
```
In general, Lean code that appears in comments should be surrounded by backticks `` ` ``.

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 37]
```diff
@@ -0,0 +1,172 @@
...
+      if idx == rr.length then
+        cur ++ comp.coeffs.map fun (var, c) =>
+          (var, idx, c * -1)
+      else if idx == rr.length - 1 then
+        cur ++ comp.coeffs.map fun (var, c) =>
+          (var, 0, c)
+      else
+        cur ++ comp.coeffs.map fun (var, c) =>
+          (var, idx + 1, c)
+    ofValues values
```
Comment (robertylewis) [inline Mathlib/Tactic/LinearOptim/Main.lean]:
```suggestion
    (rH : Linarith.Comp) (rr : List Linarith.Comp) (maxVar : ℕ) :
    matType (maxVar + 1) (rr.length + 1) :=
  let hyps := rr ++ [rH]
  let values : List (ℕ × ℕ × ℚ) :=
    hyps.foldlIdx (init := []) fun idx cur comp =>
    if idx == rr.length then
      cur ++ comp.coeffs.map fun (var, c) =>
        (var, idx, c * -1)
    else if idx == rr.length - 1 then
      cur ++ comp.coeffs.map fun (var, c) =>
        (var, 0, c)
    else
      cur ++ comp.coeffs.map fun (var, c) =>
        (var, idx + 1, c)
  ofValues values
```
(indentation)

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 38]
```diff
@@ -0,0 +1,172 @@
...
+  return (if isMaximize then -scaledR else scaledR)
+
+end BoundComputation
+
+section TacticImplementation
+
+
+
+/-- The `maximize` tactic finds an upper bound for a linear expression. -/
+elab "maximize" e_stx:term "with" h_stx:ident : tactic => do
```
Comment (robertylewis) [inline Mathlib/Tactic/LinearOptim/Main.lean]: Noting just for my own reference that I suggested the following on Zulip to make `with` optional:


```lean
syntax withArg := " with" ident

def getWithArg : Syntax → TacticM Syntax
  | `(withArg| with $arg) => pure arg
  | _                        => Elab.throwUnsupportedSyntax

/-- The `maximize` tactic finds an upper bound for a linear expression. -/
elab "maximize" e_stx:term h_stx:(withArg)? : tactic => do
  let e_exp : Expr ← Elab.Tactic.elabTerm e_stx none
  -- Wrap the bound computation in try-catch
  let bound ← try
    computeOptimalBound e_exp true (← getMainGoal)
  catch _ =>
    throwError "maximize: an upper bound cannot be produced for {e_stx}.\n    \
      The constraints may be inconsistent or the expression may be unbounded."
  -- Create the tactic syntax with explicit formatting
  let tacticStx ← match h_stx with
  | some h_stx =>
    let v : TSyntax `ident := ⟨← getWithArg h_stx⟩
    `(tactic| have $v : $e_stx ≤ $(quote bound) := by linarith)
  | none => `(tactic| have : $e_stx ≤ $(quote bound) := by linarith)
  Lean.Meta.Tactic.TryThis.addSuggestion (← getRef) tacticStx
  -- Execute the tactic
  Elab.Tactic.evalTactic tacticStx
```
`withArg` and `getWithArg` should be added to `Mathlib.Tactic.Core` with the related stuff around line 103.

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/PositiveVector.lean (hunk 31 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/PositiveVector.lean]: I'm not sure how this should be modified. This function returns the negative of the optimal value here, rather than the optimal value itself, I think for the following reason: in previous preprocessing of input data, every input constraint are transformed into "<=" form. To use coefficients of these constraints without change all of their order, we need to solve a maximization primal problem. The simplex in the context is designed to solve maximization dual problem. Hence, to run the simplex, we negate the sign of the goal polynomial to create a minimization primal problem that computes its negative of optimal value (by changing coefficient of that polynomial to negative), then transform to dual problem and pass to simplex, and at the end negate back the returned value of simplex. For minimize tactic, to reduce the change from maximize tactic, it is changed at the very beginning to a maximal problem by negating goal polynomial, and follow the same workflow of maximize (in which case the simplex return actually actual optimum value and thus the doc string should be modified).

Another thing: the returned value of this function still needs to be rescaled to get the final optimum value. This is done in "computeOptimalBound" in Mathlib/Tactic/LinearOptim/Main.lean

Do you think rewriting the doc string is enough? I think if we really want to change it to return just the optimal value for maximize tactic, it's possible but better start changing the preprocessing to ">=" form. That would be a bit tedious.

Comment (ZRTMRH) [reply Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/PositiveVector.lean]: Maybe we change change the doc string such that it only mentions the function returns the optimum value of a system specified by "A" and talk about this A only, instead of relating to maximize/minimize

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean (hunk 33 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean:132]: Chen Shuli is working on this, I've forwarded
your suggestion to her.

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 36 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: For "If you do this (and I agree you should), please leave a comment where you construct the dummy hypothesis that explains why it must be a comparison with 1.", I hope to make sure I understand your suggestion. Why is the dummy hypothesis (I suppose you mean 0<1) related to this "extractGoalScalingFactor " function?

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 8 above)
Comment (hrmacbeth) [reply Mathlib/Tactic/LinearOptim/Main.lean]: > For "If you do this (and I agree you should), please leave a comment where you construct the dummy hypothesis that explains why it must be a comparison with 1.", I hope to make sure I understand your suggestion. Why is the dummy hypothesis (I suppose you mean 0<1) related to this "extractGoalScalingFactor " function?

@ZRTMRH The dummy hypothesis is this one in `computeOptimalBound`:
```lean
  let H := if isMaximize then
    q(show $e_exp < 0 from sorry)
  else
    q(show $e_exp > 0 from sorry)
```

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/PositiveVector.lean (hunk 31 above)
Comment (hrmacbeth) [reply Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/PositiveVector.lean]: > I'm not sure how this should be modified. This function returns the negative of the optimal value here, rather than the optimal value itself,

@ZRTMRH  What about just changing `return r` to `return (-r)`?

Comment (ZRTMRH) [reply Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/PositiveVector.lean]: @hrmacbeth This function works in a way that the r is the negative of optimum value for maximize but the actual optimum value of minimize (original doc string is wrong on this), so I think we just need to change the doc string properly. Changing return r to return (-r) will let it return the negative of opimum for minimize tactic.

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 8 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: Thank you for the explanation. Siqing Zhang is working on this, I've forwarded your suggestion to him.

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 37 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: fixed

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 36 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: fixed

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean (hunk 35 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean]: fixed

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean (hunk 34 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean]: added

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/PositiveVector.lean (hunk 32 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/PositiveVector.lean]: fixed

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 38 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: Do you mean adding withArg and getWithArg to Mathlib/Tactic/Core.lean? This is a common file, so I just want to make sure if this is safe.

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/PositiveVector.lean (hunk 31 above)
Comment (robertylewis) [reply Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/PositiveVector.lean]: The new doc string is much clearer, thanks!

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 38 above)
Comment (robertylewis) [reply Mathlib/Tactic/LinearOptim/Main.lean]: Yes. These are very generic operations with direct comparisons in that file, so I think it makes sense to put them there.

Note: changing that file is going to force a lot of other things to recompile. I'd make this change last, right before you make a pull request to mathlib. In the meantime you can add these functions right above the `maximize` elaborator.

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 36 above)
Comment (robertylewis) [reply Mathlib/Tactic/LinearOptim/Main.lean]: > For "If you do this (and I agree you should), please leave a comment where you construct the dummy hypothesis that explains why it must be a comparison with 1.", I hope to make sure I understand your suggestion. Why is the dummy hypothesis (I suppose you mean 0<1) related to this "extractGoalScalingFactor " function?

Sorry, I think this comment got misplaced. This was in response to @hrmacbeth 's suggestion to avoid canceling denominators twice, by making the dummy "goal" a comparison with 1 instead of with 0.

**Comment by robertylewis** [comment]
A more general thought that I had yesterday: this tactic introduces a difference between *free variables* and *constants* that isn't really relevant in `linarith`.

Silly example of what I mean:
```lean
example (x y : Real) (h : x <= y + Real.Pi) (h2 : y <= 4) : True := by 
  maximize x with H
```

This example will fail since `maximize` doesn't know any bound on `Real.Pi`. It's exactly equivalent to 

```lean
example (x y z : Real) (h : x <= y + z) (h2 : y <= 4) : True := by 
  maximize x with H
```

But a user could reasonably hope for a "maximum" of `x <= 4 + Real.pi`. Basically, there's a generalization of the problem we're solving that allows constants (but not free variables) to appear in the output of `maximize`. 

To complicate things even further, consider this example:
```lean
example (x y : Real) (h : x <= y + Real.Pi) (h2 : y <= 4) (h3 : x <= 7) : True := by 
  maximize x with H
```

Depending on the value of `Real.pi` the maximum could be either `4 + Real.pi` or `7`. (We could never expect `maximize` to know this, so maybe it would have to suggest both.)

I think this is a theoretical challenge over what we're doing now and would need new infrastructure to solve, so I'm not suggesting to implement it now. Really I'm curious if it's possible to do this in an efficient and coherent way. I *do* think, though, that this will be among the first "bug reports"/feature requests when `maximize` goes live. For now we should make sure it's clear in the documentation that `maximize` does *not* do this, that it treats non-numeric constants as arbitrarily large/small and will only produce numeric bounds.

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/PositiveVector.lean [hunk 39]
```diff
@@ -99,4 +99,44 @@ def findPositiveVector {n m : Nat} {matType : Nat → Nat → Type} [UsableInSim
...
+  a₁·x₁ + a₂·x₂ + ... + a_{m-1}·x_{m-1} + aₘ = 0
+
+**Objective Function:**
+The first row of A (excluding the first entry) defines the objective function to maximize:
+- If the first row is (-1, a₁, a₂, ..., aₘ), then we maximize:
+  z = -a₁·x₁ - a₂·x₂ - ... - a_{m-1}·x_{m-1} + aₘ
+
+**Returns:** The optimal value z* of the maximization problem, or fails if the problem is
+unbounded or infeasible.
+
```
Comment (robertylewis) [inline Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/PositiveVector.lean]:
```suggestion
/-- Returns the optimal value of the linear system defined by matrix `A`.

Matrix `A` encodes a linear programming problem in standard form as follows:

**Matrix Structure:**
- `A` is an `(n+1) × (m+1)` matrix where the linear program has `n` constraints and `(m-1)` variables
  `x₁, x₂, ..., x_{m-1}`
- The first column is always `(-1, 0, 0, ..., 0)ᵀ` (only the top-left entry matters)
- The remaining structure defines the optimization problem

**Constraint System:**
Let `B` be the matrix obtained by removing the first row and first column from `A`.
Each row `i` of `B` represents an equality constraint:
- If row `i` of `B` is `(a₁, a₂, ..., a_{m-1}, aₘ)`, then the constraint is:
  `a₁·x₁ + a₂·x₂ + ... + a_{m-1}·x_{m-1} + aₘ = 0`

**Objective Function:**
The first row of `A` (excluding the first entry) defines the objective function to maximize:
- If the first row is `(-1, a₁, a₂, ..., aₘ)`, then we maximize:
  `z = -a₁·x₁ - a₂·x₂ - ... - a_{m-1}·x_{m-1} + aₘ`

**Returns:** The optimal value `z`* of the maximization problem, or fails if the problem is
unbounded or infeasible.

```

These backticks are necessary for markdown formatting -- otherwise these doc strings will look strange in the API docs. It looks like most of the PR is correctly backticked, but please double check :)

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 38 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: Currently Mathlib/Tactic/Core.lean has "syntax withArgs := " with" (ppSpace colGt ident)+", so I used it instead of adding a new withArg. Do you think this is okay?

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/PositiveVector.lean (hunk 39 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/PositiveVector.lean]: changed and checked other files.

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 38 above)
Comment (robertylewis) [reply Mathlib/Tactic/LinearOptim/Main.lean]: No, I was suggesting the new version as an alternative to that. `withArgs` will parse *at least one* hypothesis name. I don't want it to be syntactically valid to write `maximize t with h1 h2` and the alternate `withArg` I suggested will rule this out.

Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: Thank you for explanation. I have updated to withArg.

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 8 above)
Comment (szqzs) [reply Mathlib/Tactic/LinearOptim/Main.lean]: I have changed the file accordingly

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 25 above)
Comment (SC-zzz) [reply Mathlib/Tactic/LinearOptim/Main.lean]: This is done now. Now the code will have different error messages to tell the user if the constraints are inconsistent or if the expression is unbounded. If there are both errors, it will only tell them one.

File: Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean (hunk 33 above)
Comment (SC-zzz) [reply Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean:132]: Now the type `SimplexAlgorithmException` also has an `unbounded` constructor. Now the code also has different error messages to tell the user if the constraints are inconsistent or if the expression is unbounded. If there are both errors, it will only display one.

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 25 above)
Comment (SC-zzz) [reply Mathlib/Tactic/LinearOptim/Main.lean]: The is the logic: the code first detects if the last column is used as a basic variable in `simplexOptimalBound`. If it does, then that means there are some variable in the expression that does not appear in the hypotheses. In this case, the code gives an unbounded error. Then the code run as before, and if we fail in `chooseEnteringVar`, then the code gives an unbounded error. If we fail in `chooseExitingVar`, then the codes gives an inconsistent error.

Comment (SC-zzz) [reply Mathlib/Tactic/LinearOptim/Main.lean]:
```
example (x y : ℚ) (h2 : x < 0) (h1 : x > 7):  True := by
  maximize y with H
  trivial
```
For example, in this case, even though the constraints are inconsistent and the expression is unbounded, the error message only says the expression may be unbounded.

Comment (SC-zzz) [reply Mathlib/Tactic/LinearOptim/Main.lean]:
```
example (x y : ℚ) (h2 : x < 0) (h1 : x > 5) (h3 : y < 10):  True := by
  minimize y + x with H
  trivial
```
In this case, the constraints are inconsistent and the expression is unbounded, but because there is an inequality involving y, the error message only says the constraints may be inconsistent.

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 4 above)
Comment (SC-zzz) [reply Mathlib/Tactic/LinearOptim/Main.lean]: @hrmacbeth If we run linarith with < after we get the bound and see if we get a contradiction, then we will know if a < is provable. This doesn't need us to track strictness of the inequalities, but it might not be so ideal.

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 40]
```diff
@@ -0,0 +1,188 @@
...
+  | .error e => return Except.error e
+
+
+end BoundComputation
+
+
+section TacticImplementation
+
+
+/-- The `maximize` tactic finds an upper bound for a linear expression. -/
```
Comment (robertylewis) [inline Mathlib/Tactic/LinearOptim/Main.lean]: The doc string here is used for the tooltip that shows when someone hovers over `maximize` in a proof, and also in generated documentation. Could you expand it with more information? It should contain everything the user needs to know about how to use `maximize`, including 
* a description of the syntax
* an example where `maximize` succeeds
* examples where it fails, one with each error message
* a reference to `minimize`

`minimize` should have a similar doc string.

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 25 above)
Comment (robertylewis) [reply Mathlib/Tactic/LinearOptim/Main.lean]: > For example, in this case, even though the constraints are inconsistent and the expression is unbounded, the error message only says the expression may be unbounded.

Intuitively (at least to me), inconsistent constraints are a "stronger" error than an unbounded objective function. If the constraints are inconsistent you could prove *any* bound on any expression. I'd want to report things in the following way:
* If the constraints are inconsistent, report "inconsistent constraints".
* If the constraints are consistent but the expression is unbounded, report "unbounded expression".
* Otherwise report the bound.

Is it possible to reliably determine which of these three cases we're in?

**Review by robertylewis — COMMENTED** [review]
Sorry for not thinking of this earlier when I went down a rabbit hole with the `with` syntax implementation. @hrmacbeth what do you think about the syntax `maximize H : 2*x + y` instead of `maximize 2*x + y with H`? There's a semi-parallel with other tactics, although in this case the expression after `:` is *not* a type which breaks the parallel and could be misleading.

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 40 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: fixed

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 41]
```diff
@@ -0,0 +1,307 @@
...
+
+This file implements `maximize` and `minimize` tactics that find upper and lower
+bounds for linear expressions given linear constraints using the simplex algorithm.
+
+## Main declarations
+
+* `maximize` - Finds an upper bound for a linear expression
+* `minimize` - Finds a lower bound for a linear expression
+* `findPositiveVector` - Finds a positive vector solution using simplex algorithm
+* `runSimplexAlgorithm` - Core simplex algorithm implementation
```
Comment (robertylewis) [inline Mathlib/Tactic/LinearOptim/Main.lean]: These aren't in this file. Both should be mentioned in the doc string of the file where they appear.
```suggestion
```

File: Mathlib/Tactic/LinearOptim/Main.lean [hunk 42]
```diff
@@ -0,0 +1,307 @@
...
+## Implementation
+
+Both tactics work by:
+1. Parsing the linear constraints and target expression
+2. Converting them to matrix form suitable for the simplex algorithm
+3. Finding the optimal solution using simplex with Bland's rule for pivoting
+4. Suggesting a `have` statement with the computed bound
+
+The certificate search is reduced to finding a nonnegative vector `v` such that some
+coordinates from strict inequalities are positive and `A v = 0`. This is solved using:
```
Comment (robertylewis) [inline Mathlib/Tactic/LinearOptim/Main.lean]: Is this relevant here? What's the "certificate search" in this context?

**Comment by robertylewis** [comment]
I feel like this may have been discussed at some point, so sorry if I'm dredging up an old conversation: 

```lean
example (x y : ℚ) (h1 : 3 * x + y < 4) (h2 : x < 2) : True := by
  maximize 4 * x + y with H
  -- Creates: have H : 4 * x + y ≤ 6 := by linarith
  trivial
```

This could actually be a strict bound `H : 4 * x + y < 6`. Is there a convenient way to detect when all the active constraints are strict, and in that case strengthen the output bound?

**Comment by ZRTMRH** [comment]
> I feel like this may have been discussed at some point, so sorry if I'm dredging up an old conversation:
> 
> ```lean
> example (x y : ℚ) (h1 : 3 * x + y < 4) (h2 : x < 2) : True := by
>   maximize 4 * x + y with H
>   -- Creates: have H : 4 * x + y ≤ 6 := by linarith
>   trivial
> ```
> 
> This could actually be a strict bound `H : 4 * x + y < 6`. Is there a convenient way to detect when all the active constraints are strict, and in that case strengthen the output bound?

As discussed before, I do not have a convenient way in mind. Especially, when doing simplex operation, there's no preference for strict inequalities at current formulation, which means that the linear combination in the end may only contains non-strict inequality, but there exists some other combination with the same bound and uses strict inequality.

A more straightforward implementation would be let the algorithm call linarith to test whether the strict inequality holds with the optimal bound. What do you think?

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 42 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: No, it should not be here. I modified accordingly.

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 41 above)
Comment (ZRTMRH) [reply Mathlib/Tactic/LinearOptim/Main.lean]: Deleted.  They were in Mathlib/Tactic/Linarith/Oracle/SimplexAlgorithm/SimplexAlgorithm.lean, which already has proper doc string.

**Comment by ZRTMRH** [comment]
> > I feel like this may have been discussed at some point, so sorry if I'm dredging up an old conversation:
> > ```lean
> > example (x y : ℚ) (h1 : 3 * x + y < 4) (h2 : x < 2) : True := by
> >   maximize 4 * x + y with H
> >   -- Creates: have H : 4 * x + y ≤ 6 := by linarith
> >   trivial
> > ```
> > 
> > 
> >     
> >       
> >     
> > 
> >       
> >     
> > 
> >     
> >   
> > This could actually be a strict bound `H : 4 * x + y < 6`. Is there a convenient way to detect when all the active constraints are strict, and in that case strengthen the output bound?
> 
> As discussed before, I do not have a convenient way in mind. Especially, when doing simplex operation, there's no preference for strict inequalities at current formulation, which means that the linear combination in the end may only contains non-strict inequality, but there exists some other combination with the same bound and uses strict inequality.
> 
> A more straightforward implementation would be let the algorithm call linarith to test whether the strict inequality holds with the optimal bound. What do you think?

I have implemented what I suggested above, and the tactics can now properly generate strict inequalities when possible.

File: Mathlib/Tactic/LinearOptim/Main.lean (hunk 25 above)
Comment (SC-zzz) [reply Mathlib/Tactic/LinearOptim/Main.lean]: > > For example, in this case, even though the constraints are inconsistent and the expression is unbounded, the error message only says the expression may be unbounded.
> 
> Intuitively (at least to me), inconsistent constraints are a "stronger" error than an unbounded objective function. If the constraints are inconsistent you could prove _any_ bound on any expression. I'd want to report things in the following way:
> 
> * If the constraints are inconsistent, report "inconsistent constraints".
> * If the constraints are consistent but the expression is unbounded, report "unbounded expression".
> * Otherwise report the bound.
> 
> Is it possible to reliably determine which of these three cases we're in?

I have been thinking about this. I can sort of see the argument here, as the inconstancy is intrinsic of the given constants and unboundedness depends on the expression we want to optimize. 
However, from the algorithmic level I am not sure if this is the best order, because algorithmically unbounded constraint can usually be detected first. Once the algorithm finds unboundedness and gives error it doesn’t seem efficient for it to continue going and try to see if there is further inconsistency. 
Also, in the following example, the inconsistency has nothing to do with x so I feel unboundedness is somehow a stronger error here. 

```
example (x y : ℚ) (h2 : y < 0) (h1 : y > 7):  True := by
  maximize x with H
```
